US08372837B2
To a stirring solution of methyl 4-(1-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyano-3-fluorophenyl)-6-oxo-1,6-dihydropyridazine-3-carboxylate (142 mg, 0.30 mmol) in DCM (3 mL) at room temperature under argon was added 4 M HCl in dioxane (0.375 mL, 1.5 mmol). The reaction mixture was stirred at room temperature overnight. Et2O (10 mL) was added to the reaction mixture. The solid product was collected by filtration and further washed with ether (2 mL×2). After drying under reduced pressure for 2 hours, 105 mg of methyl 1-(4-cyano-3-fluorophenyl)-6-oxo-4-(piperidin-4-yloxy)-1,6-dihydropyridazine-3-carboxylate HCl salt was obtained as an off-white solid. MS (ESI) 373 (M+H).

reactant | methyl 4-(1-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyano-3-fluorophenyl)-6-oxo-1,6-dihydropyridazine-3-carboxylate | 0.30 mmol, 142 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C(=NN(C(C1)=O)C1=CC(=C(C=C1)C#N)F)C(=O)OC | C23H25FN4O6
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 1.5 mmol, 0.375 mL | O1CCOCC1 | C4H8O2
reactant | Et2O | 10 mL | CCOCC | C4H10O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | methyl 1-(4-cyano-3-fluorophenyl)-6-oxo-4-(piperidin-4-yloxy)-1,6-dihydropyridazine-3-carboxylate HCl salt | 105 mg | Cl.C(#N)C1=C(C=C(C=C1)N1N=C(C(=CC1=O)OC1CCNCC1)C(=O)OC)F | InChI=1S/C18H17FN4O4.ClH/c1-26-18(25)17-15(27-13-4-6-21-7-5-13)9-16(24)23(22-17)12-3-2-11(10-20)14(19)8-12;/h2-3,8-9,13,21H,4-7H2,1H3;1H
